US07786144B2
To a magnetically stirred solution of 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylsulfanyl-1H-pyrazole-3-carboxylic acid (4.69 g, 11.3 mmol) in dichloromethane (100 ml) was successively added 7-aza-1-hydroxybenzotriazole (HOAt) (2.2 g, 16.0 mmol), (1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCl) (3.1 g, 16.1 mmol) and 1-aminopiperidine (1.6 gram, 16.0 mmol). After stirring for 16 h, the resulting mixture was successively washed with water (3×), dried over Na2SO4, filtered and concentrated to give a crude solid. This crude solid was further purified by flash chromatography (silica gel, EtOAc/heptane=22/78 (v/v)) and trituration with n-heptane/methanol to give 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylsulfanyl-N-(piperidin-1-yl)-1H-pyrazole-3-carboxamide: compound 1 (0.55 gram, 10% yield). Melting point: 172.4-174.5° C. 1H-NMR (CDCl3, 400 MHz) δ 1.41-1.49 (m, 2H), 1.72-1.81 (m, 4H), 2.40 (s, 3H), 2.83-2.95 (m, 4H), 7.15 (br d, J=8 Hz, 2H), 7.28-7.35 (m, 4H), 7.42 (br d, J=2 Hz, 1H), 7.94 (br s, 1H). 13C-NMR (CDCl3, 100 MHz) δ 20.03, 23.32, 25.29, 57.02, 113.66, 126.20, 127.99, 128.74, 130.36, 130.48, 131.24, 132.85, 135.59, 135.64, 136.41, 147.08, 147.30, 158.62.

reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylsulfanyl-1H-pyrazole-3-carboxylic acid | 11.3 mmol, 4.69 g | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O)SC | C17H11Cl3N2O2S
reactant | 7-aza-1-hydroxybenzotriazole | 16.0 mmol, 2.2 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 16.1 mmol, 3.1 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-aminopiperidine | 16.0 mmol, 1.6 gram | NN1CCCCC1 | C5H12N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylsulfanyl-N-(piperidin-1-yl)-1H-pyrazole-3-carboxamide | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)NN1CCCCC1)SC | C22H21Cl3N4OS
